US04587351
Preparation of (8aR-trans)-octahydro-1-propyl-6(2H)-quinolinone
A 250 ml single neck round bottom flask fitted with a water separator containing 20 g of 3A sieves (Linde) was charged with 100 ml of toluene, 10.25 g (0.052 mol) of 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-one (Aldrich Chemical Company), 17.97 g (3.04 mmol) of n-propylamine (Baker) and 18 mg (0.09 mmol) of p-toluenesulfonic acid monohydrate (Aldrich). The reaction mixture was refluxed for 24 hours and cooled, and the toluene was evaporated under reduced pressure to produce the title compound.

reactant | water | O | H2O
reactant | 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-one | 0.052 mol, 10.25 g | CC1(COC2(OC1)CCC(CC2)=O)C | C11H18O3
reactant | n-propylamine | 3.04 mmol, 17.97 g | C(CC)N | C3H9N
reactant | p-toluenesulfonic acid monohydrate | 0.09 mmol, 18 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (8aR-trans)-octahydro-1-propyl-6(2H)-quinolinone | C(CC)N1CCC[C@@H]2CC(CC[C@@H]12)=O | C12H21NO
